US07132425B2
A mixture of N-[5-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-pyrazin-2-yl]-2,2-dimethyl-propionamide (8.4 g, 30.7 mmol) and potassium carbonate (4.32 g, 31.2 mmol) in methanol (150 mL) was stirred at 25° C. for 16.5 h, at which time, thin layer chromatography suggested partial conversion to a more polar product. In an effort to avoid epimerization at the stereogenic center, the reaction was discontinued before completion. Therefore, the solvent was removed under reduced pressure at 25° C. The resulting residue was again concentrated in vacuo from ethyl acetate (50 mL). The material was purified using Biotage chromatography (FLASH 40L, Silica, ethyl acetate). The early fractions collected allowed for the recovery of unreacted starting pivaloylamide as a white solid (2.0 g, 24%). The later fractions were concentrated in vacuo to provide 5-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-pyrazin-2-ylamine (3.7 g, 63%) as a pale yellow oil. High-performance liquid chromatography analysis with a chiral column indicated 100% ee.

reactant | N-[5-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-pyrazin-2-yl]-2,2-dimethyl-propionamide | 30.7 mmol, 8.4 g | CC1(OC[C@@H](O1)C=1N=CC(=NC1)NC(C(C)(C)C)=O)C | C14H21N3O3
reactant | potassium carbonate | 31.2 mmol, 4.32 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 150 mL | CO | CH4O
product | 5-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-pyrazin-2-ylamine | 3.7 g, 63% | CC1(OC[C@@H](O1)C=1N=CC(=NC1)N)C | C9H13N3O2
